US06495576B2
N-[1-(1H-1,2,3-Benzotriazol-1-yl)-2,2-dimethyl-3-phenylpropyl]-3-phenylpropionamide
A suspension of 3-(phenyl)propionamide, the product from Example 18A, benzotriazole, and p-toluenesulfonic acid was processed as described in Example 1C to provide the title compound.

reactant | 3-(phenyl)propionamide | C1(=CC=CC=C1)CCC(=O)N | C9H11NO
reactant | benzotriazole | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | N-[1-(1H-1,2,3-Benzotriazol-1-yl)-2,2-dimethyl-3-phenylpropyl]-3-phenylpropionamide | N1(N=NC2=C1C=CC=C2)C(C(CC2=CC=CC=C2)(C)C)NC(CCC2=CC=CC=C2)=O | C26H28N4O
